US09126981B2
Synthesis of (S)-2-amino-3-(4-tert-butoxyphenyl)-N-(2,2-diethoxyethyl)-N-((R)-1-phenylethyl)propanamide (Compound IV-14)
According to the procedure described in the synthesis method of Compound IV-1, (9H-fluoren-9-yl)methyl(S)-3-(4-tert-butoxyphenyl)-1-((2,2-diethoxyethyl)((R)-1-phenylethyl)amino)-1-oxopropan-2-ylcarbamate (Compound III-14) (3.08 g, 4.5 mmol) was treated with piperidine and the obtained residue was purified by silica gel column chromatography (eluent: n-hexane:ethyl acetate=9:1, chloroform:methanol=100:0 and 8:2) to obtain the title compound (1.99 g, 97%).

reactant | (9H-fluoren-9-yl)methyl(S)-3-(4-tert-butoxyphenyl)-1-((2,2-diethoxyethyl)((R)-1-phenylethyl)amino)-1-oxopropan-2-ylcarbamate | 4.5 mmol, 3.08 g | C(C)(C)(C)OC1=CC=C(C=C1)C[C@@H](C(=O)N([C@H](C)C1=CC=CC=C1)CC(OCC)OCC)NC(OCC1C2=CC=CC=C2C=2C=CC=CC12)=O | C42H50N2O6
reactant | piperidine | N1CCCCC1 | C5H11N
product | (S)-2-amino-3-(4-tert-butoxyphenyl)-N-(2,2-diethoxyethyl)-N-((R)-1-phenylethyl)propanamide | 1.99 g, 97% | N[C@H](C(=O)N([C@H](C)C1=CC=CC=C1)CC(OCC)OCC)CC1=CC=C(C=C1)OC(C)(C)C | C27H40N2O4
